US06051592
At room temperature, a solution of 0.3 ml (5 mmol) of methyl isocyanate in 5 ml of absolute tetrahydrofuran is added dropwise with stirring to a mixture of 1.72 g (5 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol, 0.1 ml of triethylamine and 20 ml of absolute tetrahydrofuran. After the addition, the reaction mixture is stirred at room temperature for 1 hour and then concentrated under reduced pressure. The crude product that remains is chromatographed over silica gel using a mixture of petroleum ether/ethyl acetate=1:1. Concentration of the eluate gives 1.3 g (65% of theory) of 2-(l -chloro-cyclopropyl)-1-(2-chlorophenyl)-3-[5-(N-methyl-carbamoylthio)-1,2,4-triazol-1-yl]-propan-2-ol in the form of an oil.

reactant | methyl isocyanate | 5 mmol, 0.3 ml | CN=C=O | C2H3NO
reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 5 mmol, 1.72 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(l -chloro-cyclopropyl)-1-(2-chlorophenyl)-3-[5-(N-methyl-carbamoylthio)-1,2,4-triazol-1-yl]-propan-2-ol | 1.3 g, 65% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC(NC)=O)O | C16H18Cl2N4O2S
